* Pinout (same as IC):IN- VOCM V+ OUT+ OUT- V- EN/ IN+ -OUTF +OUTF
.SUBCKT LTC6401-14 1 2 3 4 5 6 7 8 9 10
CG1P 26 0 0.7E-9
CG3P 28 0 20E-12
CG5M 25 0 10E-12
CG5P 24 0 10E-12
*CIN2 3 8a 1p
*CIN3 1a 3 1p
*CIN4 6 8a 1p
*CIN5 1a 6 1p
COCM1 61 0 70p
COCM3 6 2 4E-12
CPSRR1 53 3 4e-14
CPSRR2 54 6 4e-14
DIN1 8a 3 DIN
DIN2 1a 3 DIN
DIN3 6 8a DIN
DIN4 6 1a DIN
DIN5 51 8a DIN
DIN6 1a 51 DIN
DIN7 8a 62 DIN
DIN8 62 1a DIN
DVL1P 27 26 DVLIM
DVL2P 27 0 DVLIM
DVNF 42 0 DVNOI
DVNFX 43 0 DVNOIX
ESHD1 88 0 VALUE={0.5+0.5*TANH(-5*(1.2-V(3,7)))}
GG1P 0 26 VALUE={6.6*TANH(V(23))}
GG3P 0 28 26 0 6.2832
GG5M 0 25 0 28 6.4832
GG5P 0 24 28 0 6.4832
GGAINP 0 23 22 1a 14.1111
GINOI1 1a 0 0 44 1m
GINOI2 8a 0 0 45 1m
GINX 0 22 VALUE={V(8a)+3.1E-5*(0.5*(V(8a)+V(1a))-V(6))-V(52)+V(42,43)+V(41)-1.5m}
GOCM1 0 61 VALUE={V(88)*((V(2)-(V(4a)+V(5a))/2)+7.5m)+10*V(41)}
GOCM2 0 24 61 0 6.283
GOCM3 0 25 61 0 6.283
GOUT1 31 4a VALUE={MIN(0.085,V(88)*0.143*V(31,4a))}
GOUT2 32 5a VALUE={MIN(0.085,V(88)*0.143*V(32,5a))}
GPSRR 0 52 3 6 40E-7
GPWR 3 6 VALUE={V(88)*(V(3,6)/88.5+15E-3)+0.9E-3}
IBIASDEF1 0 8a 1u
IBIASDEF2 0 1a 1u
IDUM1 41 0 0
IDUM2 45 44 0
IVNF 0 42 1
IVNFX 0 43 1
MOUT1 3 24 31 31 NOUT
MOUT1M 3 25 32 32 NOUT
MOUT2 6 24 31 31 POUT
MOUT2M 6 25 32 32 POUT
RAP 23 0 1
RG1P 26 0 400k
RG3P 28 0 0.159155
RG5M 25 0 0.159155
RG5P 24 0 0.159155
RINOI1 44 0 380
RINOI2 45 0 380
RINX 22 0 1
ROCM1 61 0 100k
RPSRR1 52 0 10
RPSRR2 52 53 30
RPSRR3 52 54 30
RSHDN2 7 3 100k
RVNOI 41 0 100
RVOCM3 3 2 80k
RVOCM4 2 6 80k
* External to the amp
RG1 8a 8 100
RG2 1a 1 100
RF1 8a 5a 500
RF2 1a 4a 500
ROUTP 4a 4 12.5
ROUTN 5a 5 12.5
RFILTP 4a 10 50
RFILTN 5a 9 50
CFILT 9 10 1.7pF
.MODEL NOUT NMOS(KP=1 VTO=1M)
.MODEL POUT PMOS(KP=1 VTO=-1M)
.MODEL DIN D(IS=1E-12 KF=0 RS=0)
.MODEL DVLIM D(BV=5 IS=1E-18 KF=0 RS=0 XTI=0)
.MODEL DVNOIX D(KF=0 RS=0)
.MODEL DVNOI D(RS=0 KF= 3E-12)
.ENDS LTC6401-14
*
