
.SUBCKT LTC6084 3 2 7 4 6
IBIASDEF2 0 2 0.3pA
IBIASDEF1 0 3 0.2pA
RG1 24 0 55k
CG1 24 0 240E-5
GCM2 0 51 30 4 10E-9	
RCMRR 51 0 1k
GPSRR 0 53 7 4 10E-9
RPSRR1 53 0 1k
GG3 0 25 24 0 6.2832
RG3 25 0 0.159155
CG3 25 0 0.1E-6
RVNOI 41 0 15.56k
CIN3 2 4 7pF
CIN2 4 3 7pF
DVNF 42 0 DVNOI
IVNF 0 42 10
DIN1 3 7 DIN
DIN2 2 7 DIN
GZP1 0 27 26 0 0.058
RZP1 27 28 220
RZP4 28 0 370
LZP2 28 0 4E-6
GG5 0 26 25 0 5.44
RG5 26 0 0.1159155
CG5 26 0 0.1E-8
DIN3 4 3 DIN
DIN4 4 2 DIN
IDUM1 41 0 0
DVNFX 43 0 DVNOIX
IVNFX 0 43 1    
GG1 0 24 VALUE={700*TANH(V(23))}
MOUT1 61 27 6 6 NOUT
MOUT2 62 27 6 6 POUT
CIN4 7 3 7pF
CIN5 2 7 7pF
RA 23 0 1.5
DVL1 NVL1 24 DVLIM
DVL2 NVL1 0 DVLIM
EICM 30 0 VALUE={(V(3)+V(2))/2}
CCMRR 30 52 0.1p
RCMRR2 52 51 3k
RPSRR2 53 54 3k
CPSRR1 54 7 100p
RPSRR3 53 55 3k
CPSRR2 55 4 1000p
ITYP 7 4 110µA
GGAIN 0 23 VALUE={20*V(3,2)+V(42,43)+V(51)+V(53)+10E-6}
GB 0 27 VALUE={0.02*V(7,4)}
GLIM1 7 61 VALUE={MIN(0.02,V(7,61))}
GLIM2 62 4 VALUE={MIN(0.02,V(62,4))}
.MODEL NOUT NMOS(KF=0 KP=50 VTO=-1m)
.MODEL POUT PMOS(KF=0 KP=50 VTO=1m)
.MODEL DIN D(KF=0 RS=0)
.MODEL DVLIM D(BV=2 IS=1E-10 KF=0 RS=0)
.MODEL DVNOIX D(KF=5.15E-13 RS=0)
.MODEL DVNOI D(RS=0 KF=8.15E-13)
.ENDS LTC6084
