* Copyright © Linear Technology Corp. 5/17/05. All rights reserved.
****** Pinout: OUT V- IN- IN+ V+
*LTC6202 POs 4 3 1 8 7
*LTC6101 POs 1 2 3 4 5 

.subckt LTC6102 1  2   3   4  5 6
CG1 117 0 2.9E-7
CG3 118 0 5E-7
CIN1 3 2 4p
CIN2 2 4 4p
CIN3 3 5 4p
CIN4 5 4 4p
CPSRR1 114 119 1.2p
DIN1 5 112 DIN
DIN2 112 113 DIN
DIN3 113 22 DIN
DIN4 21 22 DIN
DIN5 22 21 DIN
DVL1 116 117 DVLIM1
DVL2 116 0 DVLIM2
DZ1 3 5 DZNR
DZ2 2 1 DZNR
EVLIM1 119 0 5 0 1
EVLIM2 120 0 VALUE={V(5)-4}
GG1 0 117 VALUE={4*TANH(V(23))}
GG3 0 118 117 0 6.2832
GGAIN 0 23 111 22 1.5625m
GINX1 0 111 21 0 1
GOUT 0 121 118 0 10m
GPSRR 0 122 5 2 0.562E-11
GPSRRO 111 0 122 0 1
GPWR 5 2 115 0 1E-6
IBIAS1 21 0 1.5n
IBIAS2 22 0 1.5n
IOS 21 22 2n
ISUPTC 0 115 1
IVOS 0 111 20u
MCUR 1 6a 6 6 PCUR
MOUT1 119 121 6a 6a NOUT
MOUT2 120 121 6a 6a POUT
RA 23 0 800
RG1 117 0 160K
RG3 118 0 0.159155
RIN1 21 4 5k
RIN2 22 3 5k
RINX1 111 0 1
ROUT1 119 121 200
ROUT2 121 120 200
RPSRR1 122 0 1k
RPSRR2 122 114 1meg
RPWR 2 5 440k
RSUPTC 115 0 210 TC1=5m
.MODEL NOUT NMOS(KF=0 KP=5 VTO=-10M)
.MODEL POUT PMOS(KF=0 KP=5 VTO=10M)
.MODEL PCUR PMOS(KF=0 KP=5E-4)
.MODEL DIN D(KF=0 RS=0)
.MODEL DVLIM1 D(BV=1.2 IS=1E-10 KF=0 RS=0)
.MODEL DVLIM2 D(BV=5 IS=1E-10 KF=0 RS=0)
.MODEL DZNR D(BV=10 TBV1=0.75m IS=1E-12 KF=0 RS=0 XTI=0)
.ENDS LTC6102
