* Copyright © Linear Technology Corp. 5/17/05. All rights reserved.
*
*Pin 5 (V+) of LTC6101 now are shared pins 4 & 7 on LTC6103 (+INB & +INA
** each internally shorted to their respective amp)
*
*For AMP-A......
*
*Pins 4 & 5 (IN+) of LTC6101 corresponds to Pin 7 (+INA) of LTC6103 
*Pin 3 (IN-) of LTC6101 corresponds to Pin 6 (-INA) of LTC6103 
*Pin 2 (V-) of LTC6101 corresponds to Pin 3 (V-) of LTC6103 
*Pin 1 (OUT) of LTC6101 corresponds to Pin 1 (OUTA) of LTC6103 
*
* 
****** Pinout: OUTA, OUTB, V-, +INB/V+, -INB, -INA, +INA/V+
.subckt LTC6103  1    2    3      4       5     6      7 
********************
********AMP-A********

CG1 117A 0 2.9E-7
CG3 118A 0 5E-7
CIN1 6 3 4p
CIN2 3 7 4p
CIN3 6 7 4p
*CIN4 7 7 4p   ??
CPSRR1 114A 119A 1.2p
DIN1 7 112A DIN
DIN2 112A 113A DIN
DIN3 113A 22A DIN
DIN4 21A 22A DIN
DIN5 22A 21A DIN
DVL1 116A 117A DVLIM1
DVL2 116A 0 DVLIM2
DZ1 6 7 DZNR
DZ2 3 1 DZNR
EVLIM1 119A 0 7 0 1   
EVLIM2 120A 0 VALUE={V(7)-4}
GG1 0 117A VALUE={4*TANH(V(23A))}
GG3 0 118A 117A 0 6.2832
GGAIN 0 23A 111A 22A 1.5625m
GINX1 0 111A 21A 0 1
GOUT 0 121A 118A 0 10m
GPSRR 0 122A 7 3 3.162E-11
GPSRRO 111A 0 122A 0 1
GPWR 7 3 115A 0 1E-6     
IBIAS1 21A 0 100n
IBIAS2 22A 0 100n
IOS 21A 22A 2n
ISUPTC 0 115A 1
IVOS 0 111A 150u
MCUR 1 6A 6 6 PCUR
MOUT1 119A 121A 6A 6A NOUT
MOUT2 120A 121A 6A 6A POUT
RA 23A 0 800
RG1 117A 0 160K
RG3 118A 0 0.159155
RIN1 21A 7 5k
RIN2 22A 6 5k
RINX1 111A 0 1
ROUT1 119A 121A 200
ROUT2 121A 120A 200
RPSRR1 122A 0 1k
RPSRR2 122A 114 1meg
RPWR 3 7 440k
RSUPTC 115A 0 210A TC1=5m
**********************
*For AMP-B......
*
*Pins 4 & 5 (IN+) of LTC6101 corresponds to Pin 4 (+INB) of LTC6103 
*Pin 3 (IN-) of LTC6101 corresponds to Pin 5 (-INB) of LTC6103 
*Pin 2 (V-) of LTC6101 corresponds to Pin 3 (V-) of LTC6103 
*Pin 1 (OUT) of LTC6101 corresponds to Pin 2 (OUTB) of LTC6103 
*
****** Pinout: OUTA, OUTB, V-, +INB/V+, -INB, -INA, +INA/V+
*********AMP-B**********

CG1B 117B 0 2.9E-7
CG3B 118B 0 5E-7
CIN1B 5 3 4p
CIN2B 3 4 4p
CIN3B 5 4 4p
*CIN4 4 4 4p
CPSRR1B 114B 119B 1.2p
DIN1B 4 112B DIN
DIN2B 112B 113B DIN
DIN3B 113B 22B DIN
DIN4B 21B 22B DIN
DIN5B 22B 21B DIN
DVL1B 116B 117B DVLIM1
DVL2B 116B 0 DVLIM2
DZ1B 5 4 DZNR
DZ2B 3 2 DZNR
EVLIM1B 119B 0 4 0 1
EVLIM2B 120B 0 VALUE={V(7)-4}
GG1B 0 117B VALUE={4*TANH(V(23B))}
GG3B 0 118B 117B 0 6.2832
GGAINB 0 23B 111B 22B 1.5625m
GINX1B 0 111B 21B 0 1
GOUTB 0 121B 118B 0 10m
GPSRRB 0 122B 4 3 3.162E-11
GPSRROB 111B 0 122B 0 1
GPWRB 4 3 115B 0 1E-6
IBIAS1B 21B 0 100n
IBIAS2B 22B 0 100n
IOSB 21B 22B 2n
ISUPTCB 0 115B 1
IVOSB 0 111B 150u
MCURB 2 6B 5 5 PCUR
MOUT1B 119B 121B 6B 6B NOUT
MOUT2B 120B 121B 6B 6B POUT
RAB 23B 0 800
RG1B 117B 0 160K
RG3B 118B 0 0.159155
RIN1B 21B 4 5k
RIN2B 22B 5 5k
RINX1B 111B 0 1
ROUT1B 119B 121B 200
ROUT2B 121B 120B 200
RPSRR1B 122B 0 1k
RPSRR2B 122B 114B 1meg
RPWRB 3 7 440k
RSUPTCB 115B 0 210B TC1=5m
.MODEL NOUT NMOS(KF=0 KP=5 VTO=-10M)
.MODEL POUT PMOS(KF=0 KP=5 VTO=10M)
.MODEL PCUR PMOS(KF=0 KP=5E-4)
.MODEL DIN D(KF=0 RS=0)
.MODEL DVLIM1 D(BV=1.2 IS=1E-10 KF=0 RS=0)
.MODEL DVLIM2 D(BV=5 IS=1E-10 KF=0 RS=0)
.MODEL DZNR D(BV=10 TBV1=0.75m IS=1E-12 KF=0 RS=0 XTI=0)
.ENDS LTC6103
